US04016166
A mixture of 2.8 g of 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione, 40 ml of dry tetrahydrofuran and 4.4 g of N,N-dimethylformamide diethyl acetal was refluxed for 6 hours. After the reaction was complete, the solvent was distilled off from the reaction mixture under reduced pressure. To the residue obtained was added water to precipitate a crude product, which was then recrystallized from methanol to produce 2.8 g of 1-(m-nitrophenyl)- 3-ethylquinazoline-2,4(1H, 3H)-dione as colorless prisms, melting at 193°-194° C.

reactant | 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=CC=CC=C12)=O)=O | C14H9N3O4
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | N,N-dimethylformamide diethyl acetal | 4.4 g | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | water | O | H2O
product | 1-(m-nitrophenyl)- 3-ethylquinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)CC)=O | C16H13N3O4
